US07691843B2
To a stirred solution of [benzhydryl-(2-oxobutyl)amino]acetic acid tert-butyl ester (7.4 g, 20.1 mmol, 1 eq.) in dry MeOH:THF (100 mL, 1:1) at −23° C., was added CeCl3.7H2O (1.43 g, 3.83 mmol, 0.19 eq.). The reaction mixture was stirred until homogeneous, then NaBH4 (0.57 g, 15.1 mmol, 0.75 eq.) was added slowly (in small portions). The reaction was stirred for additional 20 min, then poured onto brine. This mixture was extracted with DCM, dried over MgSO4, filtered, and concentrated in vacuo to afford [benzhydryl-(2-hydroxybutyl)amino]acetic acid tert-butyl ester in quantative yield. This was used without further purification. ESMS: m/z 370.4 [M+H].

reactant | [benzhydryl-(2-oxobutyl)amino]acetic acid tert-butyl ester | 20.1 mmol, 7.4 g, 1 eq. | C(C)(C)(C)OC(CN(CC(CC)=O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H29NO3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | NaBH4 | 15.1 mmol, 0.57 g, 0.75 eq. | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | [benzhydryl-(2-hydroxybutyl)amino]acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(CC(CC)O)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H31NO3
